US05821246
Using an analogous procedure to that described in Example 1, 4-chloro-6,7-di-(2-methoxyethoxy)quinazoline hydrochloride was reacted with 4-amino-2-chlorobenzophenone to give 4-(4-benzoyl-3-chloroanilino)-6,7-di-(2-methoxyethoxy)quinazoline hydrochloride salt in 32% yield, m.p. 242°-244° C.;

reactant | 4-chloro-6,7-di-(2-methoxyethoxy)quinazoline hydrochloride | Cl.ClC1=NC=NC2=CC(=C(C=C12)OCCOC)OCCOC
reactant | 4-amino-2-chlorobenzophenone | NC1=CC(=C(C(=O)C2=CC=CC=C2)C=C1)Cl | C13H10ClNO
product | 4-(4-benzoyl-3-chloroanilino)-6,7-di-(2-methoxyethoxy)quinazoline hydrochloride salt | 32% yield | Cl.C(C1=CC=CC=C1)(=O)C1=C(C=C(NC2=NC=NC3=CC(=C(C=C23)OCCOC)OCCOC)C=C1)Cl | InChI=1S/C27H26ClN3O5.ClH/c1-33-10-12-35-24-15-21-23(16-25(24)36-13-11-34-2)29-17-30-27(21)31-19-8-9-20(22(28)14-19)26(32)18-6-4-3-5-7-18;/h3-9,14-17H,10-13H2,1-2H3,(H,29,30,31);1H
